US08022223B2
Step F: Preparation of 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine hydrochloride:
A 10 mL round-bottom flask was charged with 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine (20 mg, 0.036 mmol) and dissolved in CH2Cl2 (1 mL). 2M HCl in ether (0.1 mL, 0.2 mmol) was added and the solvent removed to afford the title compound (21 mg, 100%). 1H NMR (d6-DMSO) δ 11.51 (bs, 1H), 8.40 (d, 1H), 8.36 (bs, 1H), 7.68 (bs, 1H), 7.51-7.18 (m, 5H), 7.10-6.73 (m, 3H), 4.10-3.74 (m, 3H), 3.72 (s, 3H), 2.25 (m, 4H). Mass spectrum (apci) m/z=559.1 (M+H−HCl).

reactant | 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine | 0.036 mmol, 20 mg | BrC=1C=C(OC=2C=C(C(=NC2)NC2=NC(=NS2)C2OCCC2)SC2=CC(=CC=C2)OC)C=CC1 | C24H21BrN4O3S2
reactant | HCl | 2M | Cl | ClH
reactant | ether | 0.2 mmol, 0.1 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-bromophenoxy)-3-(3-methoxyphenylthio)-N-(3-(tetrahydrofuran-2-yl)-1,2,4-thiadiazol-5-yl)pyridin-2-amine hydrochloride | 21 mg, 100% | Cl.BrC=1C=C(OC=2C=C(C(=NC2)NC2=NC(=NS2)C2OCCC2)SC2=CC(=CC=C2)OC)C=CC1 | InChI=1S/C24H21BrN4O3S2.ClH/c1-30-16-6-3-8-19(12-16)33-21-13-18(32-17-7-2-5-15(25)11-17)14-26-23(21)28-24-27-22(29-34-24)20-9-4-10-31-20;/h2-3,5-8,11-14,20H,4,9-10H2,1H3,(H,26,27,28,29);1H
